US07601856B2
Following the procedure of Example 1, 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine (0.13 g, 0.60 mmol), 3-cyclopentylpropionyl chloride (0.10 g, 0.63 mmol), and poly(vinylpyridine) (0.5 g) in dichloromethane (15 mL) provided 3-cyclopentyl-N-(6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl)propanamide (0.13 g). MS (ESI) m/z 340 ([M+H]+).

reactant | 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine | 0.60 mmol, 0.13 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)N | C14H17NO
reactant | 3-cyclopentylpropionyl chloride | 0.63 mmol, 0.10 g | C1(CCCC1)CCC(=O)Cl | C8H13ClO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-cyclopentyl-N-(6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl)propanamide | 0.13 g | C1(CCCC1)CCC(=O)NC1=CC2=C(OC3=C2CCCCCC3)C=C1 | C22H29NO2
